US04110465
Preparation of 2-oxo-3-phenyl-7-aminoindole
Two and one half grams of 2-oxo-3-phenyl-7-nitroindole were dissolved in 200 ml. of THF (tetrahydrofuran). Two grams of 5% palladium-on-carbon were added and the mixture placed in a low pressure hydrogenation apparatus at 60 psi of hydrogen. After 18 hours, the theoretical amount of hydrogen had been absorbed. The hydrogenation mixture was filtered to remove the catalyst and the filtrate was evaporated to dryness in vacuo. The residue containing the 2-oxo-3-phenyl-7-aminoindole formed in the above hydrogenation melted at 226°-30° C. after recrystallization from methanol; yield = 1.5 g.

reactant | 2-oxo-3-phenyl-7-nitroindole | Two and one half grams | O=C1N=C2C(=CC=CC2=C1C1=CC=CC=C1)[N+](=O)[O-] | C14H8N2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | Two grams | [Pd] | Pd
solvent | THF | O1CCCC1 | C4H8O
product | 2-oxo-3-phenyl-7-aminoindole | O=C1N=C2C(=CC=CC2=C1C1=CC=CC=C1)N | C14H10N2O
